US05100762
Methacrylic acid (0.1 mol) and tri-n-butylhydroxystannane (0.1 mol) were dissolved in xylene and subjected to reaction. The water that formed as the reaction proceeded was removed together with the solvent by distillation. The by-product of the reaction was distilled off under vacuum and the residue was dried under vacuum to obtain tri-n-butylstannyl methacrylate (m.p. 46° C.; yield, 64%). This tri-n-butylstannyl methacrylate and ethyl methacrylate were put into a round-bottom flask at a molar ratio of 1:1 and xylene was added to achieve a concentration of ca. 50%. Benzoyl peroxide (1 mol % of the sum of tri-n-butylstannyl methacrylate and ethyl methacrylate) dissolved in xylene was charged into a dropping funnel. After equipping the flask with this funnel, the benzoyl peroxide solution was dripped in an amount of about 10% of the total quantity of the solution. Thereafter, the flask was heated to the reflux temperature and the remaining polymerization initiator was slowly added dropwise until the reaction was completed in 8 hours. After the reaction, the content of the flask was added to n-hexane and subjected to re-precipitation. The resulting precipitate was recovered and dried to obtain a solid product, which was slowly added to ice water and reprecipitated. The precipitate was recovered and dried to obtain poly(tri-n-butylstannyl methacrylate-ethyl methacrylate). Yield, 80%, Mn, 48,000; Mw/Mn=1.9, IR (ν cm-1), 1720, 1160, 760, 700; atomic absorption spectrum (Sn content), 24.90 (found) and 24.98 (calculated).

reactant | tri-n-butylstannyl methacrylate | C(C(=C)C)(=O)O[Sn](CCCC)(CCCC)CCCC
reactant | ethyl methacrylate | C(C(=C)C)(=O)OCC | C6H10O2
reactant | Benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | n-hexane | CCCCCC | C6H14
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | tri-n-butylstannyl methacrylate ethyl methacrylate | C(C(=C)C)(=O)O[Sn](CCCC)(CCCC)CCCC.C(C(=C)C)(=O)OCC | InChI=1S/C6H10O2.C4H6O2.3C4H9.Sn/c1-4-8-6(7)5(2)3;1-3(2)4(5)6;3*1-3-4-2;/h2,4H2,1,3H3;1H2,2H3,(H,5,6);3*1,3-4H2,2H3;/q;;;;;+1/p-1
